US08957080B2
A solution of (S)-2-(4-amino-5-iodo-pyrrolo[2,3-d]pyrimidin-7-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (500.00 mg, 1.13 mmol, 1.0 eq), 4-phenoxyphenyl-boronic acid (240.00 mg, 1.13 mmol, 1.0 eq), Pd(PPh3)4 (100.00 mg), and Na2CO3 (300.00 mg, 2.83 mmol, 2.5 eq) in Dioxane/H2O (40/10 ml) was stirred at 90° C. for 4 h. The reaction mixture was concentrated and purified by Pre-TLC to afford (S)-2-[4-amino-5-(4-phenoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 91% in yield).

reactant | (S)-2-(4-amino-5-iodo-pyrrolo[2,3-d]pyrimidin-7-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.13 mmol, 500.00 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1C=C(C2=C1N=CN=C2N)I | C16H22IN5O2
reactant | 4-phenoxyphenyl-boronic acid | 1.13 mmol, 240.00 mg, 1.0 eq | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | Na2CO3 | 2.83 mmol, 300.00 mg, 2.5 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Dioxane H2O | 10 ml | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 100.00 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-[4-amino-5-(4-phenoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 500 mg, 91% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C28H31N5O3
